US06552015B2
Racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene (4.98 g, 21.31 mmol) in 1,1,1-trichloroethane (60 mL) was heated at reflux and 2,2,2-trichloroethyl chloroformate (3.23 mL, 23.44 mmol) was added dropwise over 10 minutes. The reaction was refluxed for 3 hours, cooled and concentrated to a clear oil. Silica gel flash chromatography using 5% methanol/chloroform as the eluent yielded racemic 3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid 2,2,2-trichloro-ethyl ester (7.77 g, 92.2%) as a clear oil which had the following properties: 1H NMR CDCl3 δ: 7.25 (s, 4H), 6.41 (m, 1H), 4.85 (m, 1H), 4.73 (s, 1H), 4.68-4.76 (m, 2H), 3.12 (d, J=17 Hz, 1H), 2.25 (m, 2H), 2.03 (m, 2H), 1.75 (m, 1H).

reactant | Racemic 3-(4-Chloro-phenyl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene | 21.31 mmol, 4.98 g | ClC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | C14H16ClN
reactant | 2,2,2-trichloroethyl chloroformate | 23.44 mmol, 3.23 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | 1,1,1-trichloroethane | 60 mL | ClC(C)(Cl)Cl | C2H3Cl3
product | racemic 3-(4-Chloro-phenyl)-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid 2,2,2-trichloro-ethyl ester | 7.77 g, 92.2% | ClC(COC(=O)N1C2C=C(CC1CC2)C2=CC=C(C=C2)Cl)(Cl)Cl | C16H15Cl4NO2
